US09381191B2
0.038 g (0.078 mmol) of methyl 3-(3-((3-((3-(trifluoromethyl)phenyl)ethynyl) imidazo[1,2-a]pyridin-2-yl)methyl)ureido)benzoate were dissolved in 2 ml of a methanol/tetrahydrofurane mixture (1/1, v/v) with magnetic stirring and then 0.931 ml (0.931 mmol) of a (1M) NaOH aqueous solution were added and the mixture was stirred at r.t. for 16 h before being treated with a solution of 0.053 ml (0.931 mmol) of acetic acid in 10 ml of water. The mixture was stirred at r.t. for 30 min. The solid formed was isolated by filtration, washed with 5 ml of water and dried in a vacuum bell jar in order to obtain 0.026 g (yield=70%) of 3-(3-((3-((3-(trifluoromethyl)phenyl)ethynyl)imidazo[1,2-a]pyridin-2-yl)methyl) ureido) benzoic acid as a white solid. LC-MS: m/z=479 (MH+); UV purity at 254 nm=99%. 1H NMR (300 MHz, DMSO) δ 12.83 (s, 1H), 8.96 (s, 1H), 8.73 (d, J=6.7 Hz, 1H), 8.04 (s, 2H), 7.90 (d, J=7.5 Hz, 1H), 7.69 (dd, J=13.0, 8.4 Hz, 2H), 7.58 (d, J=7.7 Hz, 2H), 7.45 (d, J=7.5 Hz, 2H), 7.29 (t, J=7.9 Hz, 1H), 7.13 (t, J=6.8 Hz, 1H), 6.80 (t, J=5.4 Hz, 1H), 4.62 (d, J=5.6 Hz, 2H).

reactant | methyl 3-(3-((3-((3-(trifluoromethyl)phenyl)ethynyl) imidazo[1,2-a]pyridin-2-yl)methyl)ureido)benzoate | 0.078 mmol, 0.038 g | FC(C=1C=C(C=CC1)C#CC1=C(N=C2N1C=CC=C2)CNC(NC=2C=C(C(=O)OC)C=CC2)=O)(F)F | C26H19F3N4O3
reactant | NaOH | 1M | [OH-].[Na+]
reactant | acetic acid | 0.931 mmol, 0.053 ml | C(C)(=O)O | C2H4O2
solvent | methanol tetrahydrofurane | 2 ml | CO.O1CCCC1
solvent | water | 10 ml | O | H2O
product | 3-(3-((3-((3-(trifluoromethyl)phenyl)ethynyl)imidazo[1,2-a]pyridin-2-yl)methyl) ureido) benzoic acid | 0.026 g, yield=70% | FC(C=1C=C(C=CC1)C#CC1=C(N=C2N1C=CC=C2)CNC(NC=2C=C(C(=O)O)C=CC2)=O)(F)F | C25H17F3N4O3
